US06706663B2
Preparation of 3-[3-(1,3-Dithiolan-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
To a mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (0.300 g, 0.850 mmol) and methylene chloride is added ethanedithiol (0.0940 g, 1.00 mmol) and boron trifluoride-etherate (0.200 ml). The resultant mixture is stirred overnight at room temperature and partitioned between methylene chloride and saturated sodium bicarbonate. The organic layer is dried over anhydrous magnesium sulfate and concentrated in vacuo to a yellow solid which is stirred in hot methylcyclohexane and filtered to afford the title compound as a light yellow solid (0.170 g, 46.3%, mp 227-232° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 0.850 mmol, 0.300 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | ethanedithiol | 1.00 mmol, 0.0940 g | C(C)(S)S | C2H6S2
reactant | boron trifluoride-etherate | 0.200 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[3-(1,3-Dithiolan-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.170 g, 46.3% | S1C(SCC1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C16H12F3N3O2S3
